US05068334
1-(2-Hydroxyethyl)-3,4,7,8-tetrahydro-2,5(1H,6H)-quinolinedione
Prepared analogously to Example 27 from 2-(2-carbethoxy-ethyl)-cyclohexan-1,3-dione and 2-hydroxy-ethylamine.

reactant | 2-(2-carbethoxy-ethyl)-cyclohexan-1,3-dione | C(=O)(OCC)CCC1C(CCCC1=O)=O | C11H16O4
reactant | 2-hydroxy-ethylamine | OCCN | C2H7NO
product | 1-(2-Hydroxyethyl)-3,4,7,8-tetrahydro-2,5(1H,6H)-quinolinedione | OCCN1C(CCC=2C(CCCC12)=O)=O | C11H15NO3
